### PR TITLE
[Merged by Bors] - feat(Algebra/Polynomial/Module): prove equivalence of a certain tensor product with PolynomialModule

### PR DESCRIPTION
**Pull request by gmcninch-prof**
For a commutative ring `R` and an `R`-module `M`, construct an equivalence between the `R[X]`-modules `R[X] ⊗[R] M` and
`PolynomialModule R M`.

This equivalence enables application of some base-change results to `PolynomialModule R M` .

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/Module/TensorProduct.lean [hunk 1]
```diff
@@ -0,0 +1,209 @@
...
+            LinearMap.coe_mk, AddHom.coe_mk, LinearMap.coe_comp, LinearMap.coe_restrictScalars,
+            Function.comp_apply, DistribMulAction.toLinearMap_apply, incl]
+          have monomial_smul_lsingle (j : ℕ) (r : R) (k : ℕ) (m : M) :
+              (Polynomial.monomial j) r • (PolynomialModule.lsingle R k) m =
+              (PolynomialModule.lsingle R (j + k)) (r • m) := by
+            apply PolynomialModule.monomial_smul_single
+          rw [monomial_smul_lsingle j 1 0 x]
+          simp only [add_zero, one_smul]
+          rfl
+   }
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Module/TensorProduct.lean]:
```suggestion
def polynomialTensorProductLEquivPolynomialModule : R[X] ⊗[R] M ≃ₗ[R[X]] PolynomialModule R M :=
  let e := liftBaseChange R[X] <| lsingle R (M := M) 0
  let inv : PolynomialModule R M →ₗ[R] _ := Finsupp.lsum R fun n ↦ TensorProduct.mk R R[X] M (X ^ n)
  have left : inv ∘ₗ e = .id := by
    ext n x
    simpa [inv, e] using (Finsupp.sum_single_index (by simp)).trans <| by
      simp [monomial_one_right_eq_X_pow]
  have right : e.restrictScalars R ∘ₗ inv = .id := by
    refine Finsupp.lhom_ext' fun n ↦ LinearMap.ext fun x ↦ ?_
    simpa [e, inv, ← monomial_one_right_eq_X_pow] using by rfl
  { __ := e
    invFun := inv
    left_inv := (congr($left ·))
    right_inv := (congr($right ·)) }
```

**Comment by kckennylau** [comment]
The code I posted is not complete, you need a currently missing simp lemma:
```lean
@[simp] theorem PolynomialModule.monomial_smul_lsingle {R M : Type*}
    [CommRing R] [AddCommGroup M] [Module R M] (i : ℕ) (r : R) (j : ℕ) (m : M) :
    (monomial i) r • lsingle R j m = lsingle R (i + j) (r • m) :=
  monomial_smul_single ..
```

**Comment by kckennylau** [comment]
And also you can change your imports to:
```lean
import Mathlib.Algebra.Polynomial.Module.Basic
import Mathlib.RingTheory.TensorProduct.Basic
```

File: Mathlib/Algebra/Polynomial/Module/TensorProduct.lean [hunk 2]
```diff
@@ -0,0 +1,138 @@
...
+
+is constructed in `TensorProductEquivPolynomialModule` from the
+inclusions mappings
+
+```
+fun (n : ℕ) => TensorProduct.mk R R[X] M (monomial n 1) : ℕ → M →ₗ[R] R[X] ⊗[R] M
+
+```
+using `Finsupp.lsum R`.
+-/
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Module/TensorProduct.lean:16]:
```suggestion
/-!
# PolynomialModule is isomorphic to a tensor product

For a commutative ring `R` and an `R`-module `M`, we obtain an isomorphism between
`R[X] ⊗[R] M` and `PolynomialModule R M` as `R[X]`-modules, which is called
`polynomialTensorProductLEquivPolynomialModule`.
-/
```

File: Mathlib/Algebra/Polynomial/Module/TensorProduct.lean [hunk 3]
```diff
@@ -0,0 +1,138 @@
...
+
+open Polynomial
+open TensorProduct
+open LinearMap
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Module/TensorProduct.lean]:
```suggestion
open Polynomial TensorProduct LinearMap
```

File: Mathlib/Algebra/Polynomial/Module/TensorProduct.lean [hunk 4]
```diff
@@ -0,0 +1,138 @@
...
+
+noncomputable section
+
+variable {R M : Type*} [CommRing R] [AddCommGroup M] [Module R M]
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Module/TensorProduct.lean]:
```suggestion
variable (R M : Type*) [CommRing R] [AddCommGroup M] [Module R M]
```

File: Mathlib/Algebra/Polynomial/Module/TensorProduct.lean [hunk 5]
```diff
@@ -0,0 +1,138 @@
...
+          rw [ LinearMap.comp_apply, LinearMap.comp_apply ]
+          simp only [DistribMulAction.toModuleEnd_apply,
+            LinearMap.coe_restrictScalars, DistribMulAction.toLinearMap_apply]
+          rw [ ←smul_eq_mul, smul_assoc ]
+      | add x y hx hy =>
+          rw [ smul_add, map_add, map_add, smul_add ]
+          rw [ hx ,hy ]
+    }
+
+end PolynomialModule
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Module/TensorProduct.lean]: I've structured the code below to not rely on these three definitions, and I don't think we need these definitions separately because they can all be derived from the isomorphism below, so I would suggest to remove these.

File: Mathlib/Algebra/Polynomial/Module/TensorProduct.lean [hunk 6]
```diff
@@ -0,0 +1,138 @@
...
+
+
+
+/-- The `R[X]` linear equivalence `(R[X] ⊗[R] M) ≃ₗ[R[X]] (PolynomialModule R M)`.
+-/
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Module/TensorProduct.lean]:
```suggestion
/-- The `R[X]`-linear isomorphism `(R[X] ⊗[R] M) ≃ₗ[R[X]] (PolynomialModule R M)`. -/
```

**Comment by kckennylau** [comment]
Also, please include the simp lemma I posted [here](https://github.com/leanprover-community/mathlib4/pull/28602#issuecomment-3387510995) in the right file to make the code compile.

**Comment by gmcninch-prof** [comment]
argh -- sorry. Newbie here -- I actually didn't think through what I was doing. I did some work at the office and wanted to resume when I got home, so I committed (thinking: it is just on my fork...) but I guess the PR watches my fork.

Anyhow, I was planning to finish making the changes tomorrow.

File: Mathlib/Algebra/Polynomial/Module/TensorProduct.lean [hunk 7]
```diff
@@ -0,0 +1,44 @@
...
+
+import Mathlib.Algebra.Polynomial.Module.Basic
+import Mathlib.RingTheory.TensorProduct.Basic
+
+/-!
+# PolynomialModule is isomorphic to a tensor product
+For a commutative ring `R` and an `R`-module `M`, we obtain an isomorphism between
+`R[X] ⊗[R] M` and `PolynomialModule R M` as `R[X]`-modules; this isomorphism is called
+`polynomialTensorProductLEquivPolynomialModule`.
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Module/TensorProduct.lean:15]:
```suggestion
# PolynomialModule is isomorphic to a tensor product

For a commutative ring `R` and an `R`-module `M`, we obtain an isomorphism between
`R[X] ⊗[R] M` and `PolynomialModule R M` as `R[X]`-modules; this isomorphism is called
`polynomialTensorProductLEquivPolynomialModule`.
```

File: Mathlib/Algebra/Polynomial/Module/TensorProduct.lean [hunk 8]
```diff
@@ -0,0 +1,44 @@
...
+open Polynomial TensorProduct LinearMap
+
+noncomputable section
+
+variable (R M : Type*) [CommRing R] [AddCommGroup M] [Module R M]
+
+namespace PolynomialModule
+
+/-- The `R[X]`-linear equivalence `(R[X] ⊗[R] M) ≃ₗ[R[X]] (PolynomialModule R M)`.
+-/
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Module/TensorProduct.lean]:
```suggestion
/-- The `R[X]`-linear equivalence `(R[X] ⊗[R] M) ≃ₗ[R[X]] (PolynomialModule R M)`. -/
```

File: Mathlib/Algebra/Polynomial/Module/Basic.lean [hunk 9]
```diff
@@ -118,6 +118,12 @@ theorem monomial_smul_single (i : ℕ) (r : R) (j : ℕ) (m : M) :
     rw [Nat.one_add]
     exact Finsupp.mapDomain_single
 
+@[simp]
+theorem monomial_smul_lsingle {R M : Type*}
+    [CommRing R] [AddCommGroup M] [Module R M] (i : ℕ) (r : R) (j : ℕ) (m : M) :
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Module/Basic.lean]:
```suggestion
theorem monomial_smul_lsingle (i : ℕ) (r : R) (j : ℕ) (m : M) :
```

File: Mathlib/Algebra/Polynomial/Module/TensorProduct.lean [hunk 10]
```diff
@@ -0,0 +1,44 @@
...
+    ext n x
+    simpa [inv, e] using (Finsupp.sum_single_index (by simp)).trans <| by
+      simp [monomial_one_right_eq_X_pow]
+  have right : e.restrictScalars R ∘ₗ inv = .id := by
+    refine Finsupp.lhom_ext' fun n ↦ LinearMap.ext fun x ↦ ?_
+    simpa [e, inv, ← monomial_one_right_eq_X_pow] using by rfl
+  { __ := e
+    invFun := inv
+    left_inv := (congr($left ·))
+    right_inv := (congr($right ·)) }
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Module/TensorProduct.lean:40]:
```suggestion
-- please move
@[ext high]
theorem hom_ext {f g : PolynomialModule R M →ₗ[R] M'}
    (h : ∀ a, f ∘ₗ lsingle R a = g ∘ₗ lsingle R a) : f = g :=
  Finsupp.lhom_ext' h

-- please move
@[simp]
theorem map_lsingle (f : M →ₗ[R] M') (i : ℕ) (m : M) :
    map R' f (lsingle R i m) = lsingle R' i (f m) :=
  map_single ..

/-- The `R[X]`-linear equivalence `(R[X] ⊗[R] M) ≃ₗ[R[X]] (PolynomialModule R M)`. -/
def polynomialTensorProductLEquivPolynomialModule :
    R[X] ⊗[R] M ≃ₗ[R[X]] PolynomialModule R M :=
  let e := liftBaseChange R[X] <| lsingle R (M := M) 0
  let inv := (eval X).restrictScalars R ∘ₗ map R[X] (TensorProduct.mk R R[X] M 1)
  have left : inv ∘ₗ e = .id := by
    ext n x
    simp [inv, e, ← monomial_one_right_eq_X_pow, smul_tmul']
  have right : e.restrictScalars R ∘ₗ inv = .id := by
    ext n x
    simp [e, inv, ← monomial_one_right_eq_X_pow]
  { __ := e
    invFun := inv
    left_inv := (congr($left ·))
    right_inv := (congr($right ·)) }
```
I have cooked

**Comment by kckennylau** [comment]
Please resolve old conversations to declutter the PR screen

**Comment by kckennylau** [comment]
It seems like you have accidentally resolved https://github.com/leanprover-community/mathlib4/pull/28602/files#r2462912828 , would you mind giving that a look? In that comment I've suggested a way to use more of the existing API so as not to "abuse defeq" with Finsupp.

**Comment by gmcninch-prof** [comment]
> It seems like you have accidentally resolved https://github.com/leanprover-community/mathlib4/pull/28602/files#r2462912828 , would you mind giving that a look? In that comment I've suggested a way to use more of the existing API so as not to "abuse defeq" with Finsupp.

I've added the two lemmas you suggested. 

Couple of questions (mainly asking just to see if there is anything to be learned about them...): 

- what is the point of the arguments: `ext n x` in the first lines of `left` and `right` in `polynomialTensorProductLEquivPolynomialModule`? It works fine without the arguments. (And `ext _ _` works as well).

- I added a docstring to `hom_ext`. Not precisely sure the criteria for giving one, so perhaps this doesn't really make sense.

- The result from `Finsupp` being used in the proof of  `hom_ext` is named `lhom_ext`  (well, `lhom_ext'` apparently). Why not keep the name consistent?

**Review by kckennylau — APPROVED** [review]

**Comment by kckennylau** [comment]
> * what is the point of the arguments: `ext n x` in the first lines of `left` and `right` in `polynomialTensorProductLEquivPolynomialModule`? It works fine without the arguments. (And `ext _ _` works as well).

It's a personal style thing, it's for better goal state, feel free to change that to `ext`.

> * I added a docstring to `hom_ext`. Not precisely sure the criteria for giving one, so perhaps this doesn't really make sense.

It never hurts to have more docstrings.

> * The result from `Finsupp` being used in the proof of  `hom_ext` is named `lhom_ext`  (well, `lhom_ext'` apparently). Why not keep the name consistent?

Finsupp has other kinds of homs and other kinds of ext lemmas, but PolynomialModule is a module and we're only ever going to compose with lsingle (well, until we make the algHom_ext lemma maybe)

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
